US07667053B2
Step B Chromane-3-carboxylic acid, ethyl ester
A mixture of 4-oxochromane-3-carboxylic acid, ethyl ester (4.0 g, 18 mmol) and 10% palladium on carbon (0.4 g) in 100 mL of acetic acid was degassed and filled with hydrogen using a balloon. After stirring at 70° C. overnight, the reaction mixture was filtered through CELITE diatomaceous earth, and the CELITE cake was washed with ethyl acetate (200 mL). The filtrate was washer with water (2×200 mL), dried over anhydrous sodium sulfate, filtered and concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.2-7.0 (m, 2H), 6.84 (t, 1H), 6.74 (d, 1H), 4.36 (dd, 1H), 4.21-4.13 (m, 3H), 3.03 (m, 3H), 1.26 (t, 3H).

reactant | 4-oxochromane-3-carboxylic acid, ethyl ester | 18 mmol, 4.0 g | O=C1C(COC2=CC=CC=C12)C(=O)OCC | C12H12O4
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | Chromane-3-carboxylic acid, ethyl ester | O1CC(CC2=CC=CC=C12)C(=O)OCC | C12H14O3
